US07612075B2
f. 4-[(5-Chlorothiophen-2-yloxy)-acetyl]-3-(S)-methoxymethyl-1-(4-oxocyclohexylmethyl)-piperazin-2-one
4-[(5-Chloro-thiophen-2-yloxy)-acetyl]-1-(1,4-dioxa-spiro[4.5]dec-8-ylmethyl)-3-(S)-methoxymethyl-piperazin-2-one (2.8 g, 5.9 mmol) is placed in 80:20 acetic acid/water and heated at 65° C. for 0.2 h. The mixture is evaporated and is diluted with ethyl acetate (200 mL). The organic phase is washed with 1 N NaOH, is dried (MgSO4) and is evaporated to provide the intermediate title compound as a clear colorless oil (2.4 g, 95%). MS (ES), 429 [M+H]+.

reactant | 4-[(5-Chloro-thiophen-2-yloxy)-acetyl]-1-(1,4-dioxa-spiro[4.5]dec-8-ylmethyl)-3-(S)-methoxymethyl-piperazin-2-one | 5.9 mmol, 2.8 g | ClC1=CC=C(S1)OCC(=O)N1[C@H](C(N(CC1)CC1CCC2(OCCO2)CC1)=O)COC | C21H29ClN2O6S
solvent | acetic acid water | C(C)(=O)O.O
product | 4-[(5-Chlorothiophen-2-yloxy)-acetyl]-3-(S)-methoxymethyl-1-(4-oxocyclohexylmethyl)-piperazin-2-one | 2.4 g, 95% | ClC1=CC=C(S1)OCC(=O)N1[C@H](C(N(CC1)CC1CCC(CC1)=O)=O)COC | C19H25ClN2O5S
